US06762180B1
(125) 3-Z-[1-(4-(pyrrolidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and 4-(pyrrolidin-1-yl-methyl)-aniline Rf value: 0.5 (silica gel, methylene chloride/methanol=9:1) C28H27N3O3

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | 4-(pyrrolidin-1-yl-methyl)-aniline | N1(CCCC1)CC1=CC=C(N)C=C1 | C11H16N2
product | 3-Z-[1-(4-(pyrrolidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | N1(CCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C28H27N3O3
